US07084154B2
A solution of 3-phenoxy-propionamide (1.0 g, 6.0 mmol) in diethyl ether (30 mL) was cooled to 0 C. Lithium aluminum hydride (0.46 g, 12 mmol) was added in portions to the stirring amide solution. The resulting slurry was allowed to warm to rt and stirred for 20 h. The mixture was cooled to 0° C. and carefully quenched by the sequential addition of 0.5 mL of water, followed by 0.5 mL of 3 N sodium hydroxide and 1.5 mL of water. The mixture was stirred for 15 min, then filtered to remove the aluminum salts. The filtrate was collected and the volatile material was removed by a rotary evaporator to give 3-phenoxy-propylamine (0.55 g) as a pale green oil.

reactant | 3-phenoxy-propionamide | 6.0 mmol, 1.0 g | O(C1=CC=CC=C1)CCC(=O)N | C9H11NO2
reactant | Lithium aluminum hydride | 12 mmol, 0.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 3-phenoxy-propylamine | 0.55 g | O(C1=CC=CC=C1)CCCN | C9H13NO
